* Z:\home\icarosix\WinData\Cursos\Dispositivos y Sistemas Electronicos\LTSpice\PassiveElements\spice\Rnet.asc
R1 N002 N001 1k
V1 N001 0
R2 0 N002 2k
R3 Vout N002 1k
R4 0 Vout 1k
.tf V(Vout) V1
.backanno
.end
